Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I didn't expect it to come to this"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old ___
freshman with a psychiatric history of depression and eating
disorder and past medical history of ___
syndrome, who was brought to ___ ___ by ___ police
after voicing suicidal ideation. Pt reports that she has been
dealing with thoughts of being "tired of life" since her early
teens. These thoughts have been worsening in the past 6 months
since arriving to ___ from ___ for college. She has been
having intermittent thoughts of overdosing with nonspecific 
pills
or jumping off a building. Reports she has never picked a
particular building or "rehearsed" by going to a roof. For the
last 6 months, most of her suicidal thoughts have been centered
on overdosing with nonspecific pills, but recently these 
thoughts
began to center around jumping off a building. Denies that she
ever intended to carry out these thoughts and never set a date.  


She has been struggling since starting college. Feels like she
doesn't really "click" with people, that most of her peers are
interested in partying/drinking. However, when she does meet
peers that aren't into partying/drinking, she still feels like
she can't form a significant connection to them. Feels lonely 
but
wonders if she's too judgmental of others and lazy when
initiating new relationships. She was hopeful about the new
semester, having changed her major from ___ administration
to health sciences, but soon found herself dealing with ongoing
depressed/anxious mood, low energy, loss of enjoyment in leisure
activities, poor concentration, and suicidal ideation with a 
plan
but no intent (as described above). Found herself questioning 
the
quality of the ___ lectures. Preferred to stay home
instead of interacting/working with others, which she considered
a hassle/tedious, although pt reports that's she's always been
more shy and introverted. She wanted to take time off school and
focus on her mental health. Her mother seemed to be supportive 
of
the decision a few days ago, and pt was feeling well. However,
last night, pt had a significant argument with her mother
regarding taking time off. Mother told pt that she wasn't trying
hard enough. Pt was devastated and experienced renewed suicidal
thoughts of jumping off a building. 

Additionally, pt has been dealing with an eating disorder since
___ (diagnosed in ___. Around that time, she was
binging/restricting/purging. Reports she is better now, able to
eat ___. Last episode of self-induced vomiting was on
___. She still consistently reads calorie
labels and is afraid of checking her weight. She used laxatives
last ___, 1 laxative/day for 1 wk in order to treat
constipation and because she felt better when her stomach was
empty. Restarted laxative use this week (___) to treat
constipation. 

Pt was started on Prozac ___ by psychiatry at ___. She
stopped it after thinking that it wasn't very effective. She
restarted it again this year at a higher dose (40 mg daily). At
this dose, she felt happier and more stable but thought it was
also "artificial." Says that she had a lot of thoughts in her
head but without the proper emotions. For example, she had many
thoughts about school and her responsibilities without the
associated stress. She also didn't feel guilty about her binging
and was not restricting. She considered these two situations
"unnatural."  

Upon arrival to the unit, pt was very anxious and tearful and
stated that "I don't belong here," that being on the unit has
been a "wake up call." She is afraid that being on the unit will
make her feel worse and really wants to go back to her 
dormitory.
Denies current SI/HI/AVH. 

Denies any substance use, history of manic symptoms (decreased
need for sleep with increased energy, impulsive behaviors,
pressured speech, grandiosity), OCD behaviors
(obsessions/compulsions), excessive anxiety with physical
symptoms of palpitations/diaphoresis when meeting new people or
presenting in large groups of people.

Reports mild abdominal bloating, intermittent, since she started
a vegan diet ~3 weeks ago. Denies fever, chills, night sweats,
headache, chest pain, SOB, palpitations, dizziness, fainting,
nausea, vomiting, abdominal pain, dysuria, diarrhea. 

___ Course: Patient was cooperative and did not require
physical/chemical restraints. 

Additional HPI per Dr. ___ consult note:

___ is a ___ year-old woman (NEU Freshman) with a 
history
of depression and an eating disorder who was brought to the ___ 
by
___ Police after voicing suicidal ideation. She has 
been
having these thoughts increasingly over the past month. She has
considered jumping off of a building or overdosing on her
medications, which include Prozac and an unknown medication from
___ for her eating disorder (used to reduce cravings, but she
no longer takes it). She was placed on Prozac by NEUHS in 
___ but abruptly discontinued it a few weeks ago because it 
felt
artificial. Regarding her SI, she has not rehearsed by selecting
a building and/or going up to a rooftop, but she has paid
attention to different buildings and wondered if they are high
enough and secluded enough to be appropriate for jumping off of;
she believes the building should be at least 6 stories high.

The suicidal ideation comes in the context of increasing 
symptoms
of depression. Over the past month or so, she has had increasing
difficulty sleeping (problems with both hypersomnia and 
insomnia,
more insomnia over the past few days), wavering energy, 
decreased
motivation (stopped going to class regularly over the past 
month,
completely stopped over the past week), low self-esteem, and
decreased ability to concentrate. She has fallen behind in
classes and now has failing grades in them, whereas she had
mostly As last semester. She has also been skipping all
appointments at ___ this semester in avoidance 
of
discussing her thoughts.

She was born in ___ but moved to ___ at age ___, where she
lived and went to high school until ___. She says her
problems started in senior year in high school after she had a
fight with her boyfriend's younger sister. The two of them were
traveling on college visits with 2 other guys, and the patient
became upset that the BF's younger sister seemed to prefer to
hang out with the guys than with her. The patient then became
very quiet around the group, which irritated them. The younger
sister and her family are very influential in the high school,
and upon returning to high school, rumors were spread about the
patient. The patient felt as if the whole school had turned
against her, including her boyfriend and her boyfriend's family;
this led to feelings of social isolation and a distrust of her
peers. The issues later resolved after explaining her side of 
the
story to her boyfriend and his family, but the feelings of
distrust propagated forward. She then had a difficult transition
to life in ___ and to college in general. She started out as 
a
major in ___ administration but felt as if it was not what
she wanted to do, though she did well. She switched to health
sciences, which she enjoys much more but still feels like she
should be dealing with her mental health issues instead of
focusing on school. She thinks she should return to ___ for a
year and get her life in order before returning to school.

Her mother and father are divorced. The mother is in ___ while
the father is in ___. She has told both sides of the family
about her depression. While they are supportive about her 
seeking
care, she says they (particularly her mother and paternal
grandmother) have started to tell her that other people have
"real" problems and more difficult lives, and that she should
"just get over" her depression. 

On Psychiatric ROS, she denies symptoms of mania, including
periods of insomnia with increased energy and elevated mood,
grandiosity, and impulsive behaviors. She denies symptoms of
psychosis, including perceptual disturbances, paranoia, and 
other
delusions. She denies nightmares but sometimes has flashbacks to
her mother punishing her (see below).

She endorses a history of eating disorder. This started out as
weight loss in the context of what she says was depression in
___. She realized that it "felt good" to see her weight go 
down,
so she started to restrict her portion size to continue losing
weight. Her mother interfered and began to feed her. She began 
to
restrict food groups outside of her mother's meals ___, fats,
proteins/meats), but her mother adapted to that as well. She
eventually started skipping meals altogether. She lost nearly 40
lbs through her efforts. Her behaviors evolved into chewing &
spitting, which led to binging, which led to vomiting following
binging. In ___, she saw someone who served as both a 
therapist
and Psychiatrist. She says she has gained back her weight over 
at
least the past year. Currently, she skips meals but then binges.
More recently, she has been skipping meals and binging, but not
vomiting. She has been afraid to check her weight, so does not
know it.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Per Dr. ___ consult note from ___ and 
updated
with patient as relevant:
Hospitalizations: none
Current treaters and treatment: ___ for
Prozac prescription and ___ for therapy last
semester but has not gone to any appointments this semester
Medication and ECT trials: Prozac, unknown medication for eating
disorder from ___
Self-injury: denies hx of SA/self-harm
Harm to others: denies
Access to weapons: denies

PAST MEDICAL HISTORY:
Per Dr. ___ consult note from ___ and 
updated
with patient as relevant:
- ___, diagnosed in the ___ grade, has been told it is a mild
case and to avoid extended physical activity
- Denies history of traumatic brain injury, seizures

 
Social History:
Per Dr. ___ consult note from ___ and 
updated
with patient as relevant:
 - B/R: Born and raised in ___ until age ___, then moved to
___ where she lived until moving to ___ for college. Went 
to
an ___ high school.
 - Childhood: raised by a single mother who sometimes punished
her and her younger brother by hitting and throwing things at
them. Her mother worked 7 days a week and did not hide the 
stress
that working and raising 2 children placed on her. She demanded
that the kids be the ones to ask the father for child support.
 - Education: currently a freshman at ___. Started as a ___, recently transitioned to ___ sciences. Wants to become
a ___ and/or a ___.
 - Housing: dormitory
 - Relationships: has a boyfriend from high school in ___. He
went to college in ___ but was recently suspended after
being caught with marijuana at the end of last semester. 
Returned
to ___ 1 week ago.
 - Hobbies: enjoys Netflix (Big Bang Theory and Scrubs) and
writing
 - Trauma: endorses being beaten by her mother but does not 
think
it was physical abuse. Also recalls an incident in a church in
___ when she was ___ years old. A ___ group leader took her 
up
to the attic and asked her to close her eyes. He put some
chocolate in her mouth, which she ate. He then put other things
in her mouth which tasted like skin and/or rubber. She kept her
eyes closed the entire time but does not recall why. She didn't
tell anyone about it, but told her mother much later (she was
shocked but didn't do anything about it). The patient believes
that the event didn't affect her much.

 
Family History:
Per Dr. ___ consult note from ___ and 
updated
with patient as relevant:
- Mother with depression
- No history suicides or attempted suicides
- Father experimented with several different drugs at a young 
age
 
Physical Exam:
* General: NAD. Well-nourished, well-developed. Appears stated
age.
 * HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
 * Lungs: Clear to auscultation bilaterally. No crackles or
wheezes.
 * CV: Regular rate and rhythm. No murmurs/rubs/gallops. 2+ 
pedal
pulses.
 * Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
 * Extremities: No clubbing, cyanosis, or edema.
 * Skin: Warm and dry. No readily apparent rashes, scars, or
lesions.

 Neurological:
   *Cranial Nerves:
        I: Not tested.
        II: Pupils equally round and reactive to light
 bilaterally. Visual fields are full to confrontation.
       III, IV, VI: Extraocular movements intact bilaterally
 without nystagmus.
       V, VII: Facial strength and sensation intact and
symmetric.
       VIII: Hearing intact to voice.
       IX, X: Palatal elevation symmetrical.
       XI: Sternocleidomastoid and trapezius normal bilaterally.
       XII: Tongue midline without fasciculations.
   *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
   *Coordination: Normal on finger-nose-finger.
   *Sensation: Intact to light touch.
   *Gait: Steady. No truncal ataxia. Normal stance and posture.
 
Pertinent Results:
___ 10:00AM   GLUCOSE-80 UREA N-6 CREAT-0.7 SODIUM-139 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-24 ANION GAP-15
___ 10:00AM   estGFR-Using this
___ 10:00AM   ALT(SGPT)-24 AST(SGOT)-32 ALK PHOS-45 TOT 
BILI-0.5 DIR BILI-0.1 INDIR BIL-0.4
___ 10:00AM   TSH-4.1
___ 10:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:00AM   WBC-2.6* RBC-4.25 HGB-12.5 HCT-38.8 MCV-91 
MCH-29.4 MCHC-32.2 RDW-11.9 RDWSD-39.6
___ 10:00AM   NEUTS-39.4 ___ MONOS-10.0 EOS-3.5 
BASOS-0.8 AbsNeut-1.02* AbsLymp-1.20 AbsMono-0.26 AbsEos-0.09 
AbsBaso-0.02
___ 10:00AM   PLT COUNT-219
 
Brief Hospital Course:
SAFETY: Patient was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit restricted.  There were no acute safety issues during this 
hospitalization.
 
LEGAL: ___
PSYCHIATRIC:
#Depression:
Ms. ___ is a ___ year-old ___ freshman with
a psychiatric history of depression and eating disorder and past
medical history of ___ syndrome, who presented
to ___ ___ with worsening depression and suicidal ideation with
plan/no intent in the context of recently self-discontinuing
Prozac, social stressors (moving to the ___, starting college,
family conflict), social isolation, ongoing binging/restricting
behaviors with renewed laxative use. Denies substance use or
history of manic symptoms. Initial exam was notable for 
depressed/anxious
mood with dysthymic/tearful affect and no SI/HI/AVH.
Differential diagnosis includes major depressive disorder versus
adjustment disorder with depressed mood in addition to
unspecified eating disorder (bulimia nervosa versus binge eating
disorder). On the unit, pt was very engaged in her treatment and 
did well on celexa, which was uptitrated to 20 mg daily. She 
regularly attended groups on the unit and spoke to the team at 
length about her feelings and goals for the future. 

#Binging and restricting:
Denied any recent purging. Reported renewed use of laxatives in 
the week prior to admission for constipation. She was seen by a 
dietician on the unit and denied any binging/restricting 
behaviors by the time of discharge. 

MEDICAL:
___ syndrome:
Per pt, she has a  mild case, diagnosed in ___ grade. Denies 
chest pain,
palpitations, SOB, fainting, dizziness. 
 
PSYCHOSOCIAL:
#) GROUPS/MILIEU: Patient was encouraged to participate in 
unit’s groups, milieu, and therapy opportunities. Usage of 
coping skills, mindfulness, and relaxation methods were 
encouraged. Therapy addressed family, social, work, and housing 
issues. The patient enjoyed groups and participated.
 
#) COLLATERAL CONTACTS:
___ Health and Counseling Services
Contact: ___ (Counselor)
Phone number: ___
 
#) FAMILY INVOLVEMENT:
Family meeting was held with the patient's __ and was notable 
for ____. They understand and are in agreement with the current 
treatment and discharge plan.
 
#) INTERVENTIONS:
-Pharmacotherapy
-Individual/group/milieu therapy
-Family outreach
-Outpatient aftercare 
 
INFORMED CONSENT:
-Celexa

The Team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.  We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and I answered the patient's questions. 
 The patient appeared able to understand and consented to begin 
the medication. 
 
RISK ASSESSMENT:
Low imminent risk of harm/violence to self/others.
 
#) Chronic/Static Risk Factors:
Chronic mental illness and history of trauma
 
#) Modifiable Risk Factors:
-Acute major mood episode- Modified by medication adjustments, 
therapy, and family outreach
-Limited outpatient/social support - Family outreach and after 
care planning with outpatient providers 
-___ of isolation - Family outreach and after care planning 
with outpatient providers 
- ___ suicidal ideation - No SI throughout admission and was 
highly engaged in treatment 
-Med nonadherence - Pt was counseled on significance of taking 
medications as prescribed and was adherent with medications 
(celexa) on the unit
 
#) Protective Factors:
Protective factors include current outpatient 
providers/treatment, strong connections to family and community 
support, and skills in problem solving, conflict resolution and 
handling problems in a non-violent way. Current risk is low for 
intentional self-harm given that pt denies suicidal ideation, 
intent and plan, is accepting of treatment, is currently sober 
and is future oriented with plans.
 
PROGNOSIS:
Good. Patient did well on the unit, was adherent with medication 
(Celexa) for major depressive disorder, and denied SI throughout 
admission. She was very engaged with treatment plan and attended 
groups regularly. By the time of discharge, she denied any SI/HI 
and any active maladaptive eating behaviors and felt she was on 
good terms with her family. She has good aftercare planning with 
psychiatry/therapy (through ___, and she is 
eager to catch up on school work and stay committed to her 
treatment. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
RX *citalopram [Celexa] 20 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for depressed mood and suicidal 
ideation.  We adjusted your medications, and you are now ready 
for discharge and continued treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___